US04880809
Using 7-benzyloxy-1,2-dihydro-3-naphthoic acid (0.4 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.76 g), triethylamine (0.6 g), N,N-dimethylformamide (10 ml) and diethyl phosphorocyanidate (0.75 ml), an amidation as that described in Example 6 is carried out. The reaction product is purified by silica gel column chromatography (hexane:acetone=1:1-1:2) and converted to the hydrochloride in a mixture of ethyl acetate and ethyl ether to yield 1-(7-benzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.6 g) as colorless crystals, m.p. 196°-199° C. (decomp.).

reactant | 7-benzyloxy-1,2-dihydro-3-naphthoic acid | 0.4 g | C(C1=CC=CC=C1)OC1=CC=C2C=C(CCC2=C1)C(=O)O | C18H16O3
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.76 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.75 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(7-benzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.6 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2C=C(CCC2=C1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C32H36N2O5.ClH/c1-36-29-17-24(18-30(37-2)31(29)38-3)21-33-13-15-34(16-14-33)32(35)27-10-9-26-20-28(12-11-25(26)19-27)39-22-23-7-5-4-6-8-23;/h4-8,11-12,17-20H,9-10,13-16,21-22H2,1-3H3;1H
